US05254563
6-Benzyloxy-3-(1-hydroxy-1-phenylmethyl)-4-methoxymethyl-9-(4-methylphenylsulfonyl)-beta -carboline
A solution of 1.0 g of 6-benzyloxy-3-formyl-4-methoxymethyl -9-(4-methylphenylsulfonyl)-beta-carboline in 60 ml of absolute tetrahydrofuran was mixed at -60° C. under argon with 2.4 ml of a 1.08 molar phenyllithium solution in ether/hexane, stirred for 1 hour at -60° C. and then heated slowly to room temperature. After taking up in ethyl acetate/water, the organic phase was separated, washed with saturated sodium chloride solution, dried and concentrated by evaporation. After column chromatography on silica gel with the eluants dichloromethane/ethanol 15:1 and cyclohexane/ethyl acetate 1:1, 717 mg of the title compound was obtained with melting point 169°-171° C.

reactant | 6-benzyloxy-3-formyl-4-methoxymethyl -9-(4-methylphenylsulfonyl)-beta-carboline | 1.0 g | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C=O)COC | C28H24N2O5S
reactant | phenyllithium | 1.08 molar | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ether hexane | CCOCC.CCCCCC
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 6-Benzyloxy-3-(1-hydroxy-1-phenylmethyl)-4-methoxymethyl-9-(4-methylphenylsulfonyl)-beta -carboline | 717 mg | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C(C1=CC=CC=C1)O)COC | C34H30N2O5S
